US07491735B2
To a solution of 4-bromo-N-methyl-benzenesulfonamide (Marvel; Smith, J. Am. Chem. Soc., 45, 1923, 2697) (1.00 g, 4.00 mmol) in THF (35 mL) at −78° C. was added MeLi (4.00 mmol) and the solution was stirred at −78° C. for 15 minutes. n-BuLi (1.95M in hexanes, 2.05 mL, 4.00 mmol) was then added. After the solution was stirred at −78° C. for 45 minutes, TMEDA (1.20 mL, 8.00 mmol) was added followed by a solution of 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (4.76 g, 22.30 mmol) in THF (5 mL), and the mixture was stirred at −78° C. for 1 hour. Work-up and purification gave 4-[hydroxy-(4-methylsulfamoyl-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (622 mg, 41%) as a white foam.

reactant | 4-bromo-N-methyl-benzenesulfonamide | 4.00 mmol, 1.00 g | BrC1=CC=C(C=C1)S(=O)(=O)NC | C7H8BrNO2S
reactant | MeLi | 4.00 mmol | [Li]C
reactant | n-BuLi | 4.00 mmol, 1.95M, 2.05 mL | [Li]CCCC
reactant | TMEDA | 8.00 mmol, 1.20 mL | CN(C)CCN(C)C | C6H16N2
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 22.30 mmol, 4.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[hydroxy-(4-methylsulfamoyl-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 622 mg, 41% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)S(NC)(=O)=O)O | C18H28N2O5S
